US09238639B2
B) N-(2-((3S)-6-((2,4-Dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)ethyl)acetamide
To a mixture of 2-((3S)-6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)ethanamine (320 mg) and DMA (10 mL) was added acetyl chloride (74.3 mg). The mixture was stirred for 2 h. The mixture was poured into saturated aqueous NaHCO3 and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (170 mg).

reactant | 2-((3S)-6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)ethanamine | 320 mg | ClC1=C(COC2=CC3=C([C@@H](CO3)CCN)C=C2)C=CC(=C1)Cl | C17H17Cl2NO2
reactant | acetyl chloride | 74.3 mg | C(C)(=O)Cl | C2H3ClO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
product | N-(2-((3S)-6-((2,4-Dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)ethyl)acetamide | 170 mg | ClC1=C(COC2=CC3=C([C@@H](CO3)CCNC(C)=O)C=C2)C=CC(=C1)Cl | C19H19Cl2NO3
